US07566788B2
2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-amine
N-{2-tert-Butyl-1′-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}acetamide (500 mg, 1.37 mmol) was dissolved in 10 mL of 1:1/EtOH:2M HCl. The solution was divided into two sealed tubes (5 mL/tube). Each tube was heated at 120° C. in a Personal Chemistry microwaves instrument for 1 h. The fractions were pooled and the solvent was evaporated. The residue was diluted with 2M NaOH and extracted (3×) with EtOAc. The organic phase washed with saturated aqueous NaCl solution and dried over anhydrous Na2SO4. The solvent was evaporated. Yield: 440 mg (99%). 1H NMR (400 MHz, CHLOROFORM-D) δ 1.40-1.52 (m, 2H), 1.52-1.54 (m, 9H), 1.56-1.66 (m, 4H), 1.68-1.75 (m, 2H), 2.07-2.17 (m, 3H), 4.14 (d, J=7.62 Hz, 2H), 6.65 (dd, J=8.50, 2.25 Hz, 1H), 7.04-7.09 (m, 2H).

reactant | N-{2-tert-Butyl-1′-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}acetamide | 1.37 mmol, 500 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)NC(C)=O | C20H27F2N3O
reactant | HCl | 2M | Cl | ClH
solvent | EtOH | CCO | C2H6O
product | 2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-amine | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)N | C18H25F2N3
